* C:\FOSSEE\eSim\library\SubcircuitLibrary\LOG100\LOG100.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: 05/30/24 12:45:37

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
X1  Net-_Q1-Pad3_ Net-_Q1-Pad1_ GND Net-_U1-Pad9_ Net-_U1-Pad6_ CA3240-OP		
X2  Net-_U1-Pad7_ Net-_Q2-Pad1_ GND Net-_U1-Pad9_ Net-_U1-Pad6_ CA3240-OP		
Q1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_Q1-Pad3_ eSim_NPN		
Q2  Net-_Q2-Pad1_ GND Net-_Q1-Pad3_ eSim_NPN		
R2  Net-_R1-Pad2_ Net-_Q1-Pad2_ 270		
R1  GND Net-_R1-Pad2_ 220		
R3  Net-_R3-Pad1_ Net-_Q1-Pad2_ 7.5k		
R4  Net-_R4-Pad1_ Net-_Q1-Pad2_ 24k		
R5  Net-_R5-Pad1_ Net-_Q1-Pad2_ 39k		
U1  Net-_Q1-Pad1_ Net-_Q1-Pad2_ Net-_R3-Pad1_ Net-_R4-Pad1_ Net-_R5-Pad1_ Net-_U1-Pad6_ Net-_U1-Pad7_ GND Net-_U1-Pad9_ GND GND GND GND Net-_Q2-Pad1_ PORT		

.end
